US04011320
2.37 G. of 1-acetamido-2-nitro-4-thiocyanatobenzene in 10 ml. dimethylformamide is treated at 20°-25° C under nitrogen, with 0.38 g. of sodium borohydride. After one hour 1.6 ml. of chloroethyl methyl ether is added, and the mixture kept at 20°-30° C for a further three hours. Water is then added and the product filtered off. Recrystallization from cyclohexane gives 1-acetamido-2-nitro-4-methoxyethylthiobenzene.

reactant | 1-acetamido-2-nitro-4-thiocyanatobenzene | C(C)(=O)NC1=C(C=C(C=C1)SC#N)[N+](=O)[O-] | C9H7N3O3S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium borohydride | [BH4-].[Na+]
reactant | chloroethyl methyl ether | COCCCl | C3H7ClO
solvent | Water | O | H2O
product | 1-acetamido-2-nitro-4-methoxyethylthiobenzene | C(C)(=O)NC1=C(C=C(C=C1)SCCOC)[N+](=O)[O-] | C11H14N2O4S
